US06359134B1
A mixture of 1-(chloromethanesulfonyl)-4-formylpiperazine (2.26 g), 5-chlorosalicylaldehyde (1.56 g) and potassium carbonate (1.38 g) in DMF (30 ml) was stirred at 100° C. for 48 hours. The reaction solution was concentrated, and to the residue was added ethyl acetate. The organic layer was washed with water and brine, dried, concentrated and purified with silica gel column chromatography (ethyl acetate) to give colorless crystals of 1-(5-chlorobenzofurane-2-sulfonyl)-4-formylpiperazine (406 mg).

reactant | 1-(chloromethanesulfonyl)-4-formylpiperazine | 2.26 g | ClCS(=O)(=O)N1CCN(CC1)C=O | C6H11ClN2O3S
reactant | 5-chlorosalicylaldehyde | 1.56 g | ClC1=CC=C(C(C=O)=C1)O | C7H5ClO2
reactant | potassium carbonate | 1.38 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
product | 1-(5-chlorobenzofurane-2-sulfonyl)-4-formylpiperazine | 406 mg | ClC=1C=CC2=C(C=C(O2)S(=O)(=O)N2CCN(CC2)C=O)C1 | C13H13ClN2O4S
